US09193692B2
G. 4-((cis)-4-Methoxycyclohexyl)-6-(2-methyl-6-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
4-((cis)-4-Methoxycyclohexyl)-6-(trimethylstannyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one 0.292 g, 0.687 mmol), 3-bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine (0.244 g, 0.756 mmol), tris(dibenzylideneacetone)dipalladium (0.063 g, 0.069 mmol), tri-o-tolylphosphine (0.042 g, 0.137 mmol), triethylamine (0.287 mL, 2.061 mmol) and dimethylformamide (5.0 mL) were combined in a screw capped flask and heated to 95° C. for 1 h. The solution was condensed under reduced pressure and purified using Biotage chromatography (0-80% ethyl acetate in hexanes followed by 0-10% methanol in ethyl acetate) to afford the title compound (0.279 g, 0.687 mmol, 80% yield). MS (ESI) m/z 505.6 [M+1]

reactant | 4-((cis)-4-Methoxycyclohexyl)-6-(trimethylstannyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.687 mmol, 0.292 g | CO[C@H]1CC[C@H](CC1)N1CC(NC2=NC=C(N=C21)[Sn](C)(C)C)=O
reactant | 3-bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine | 0.756 mmol, 0.244 g | BrC=1C(=NC(=CC1)C1=NN(C=N1)C1OCCCC1)C | C13H15BrN4O
reactant | tri-o-tolylphosphine | 0.137 mmol, 0.042 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 2.061 mmol, 0.287 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.069 mmol, 0.063 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-((cis)-4-Methoxycyclohexyl)-6-(2-methyl-6-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.687 mmol, 0.279 g, 80% yield | CO[C@H]1CC[C@H](CC1)N1CC(NC2=NC=C(N=C21)C=2C(=NC(=CC2)C2=NN=CN2C2OCCCC2)C)=O | C26H32N8O3
